Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain, hematemesis
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history of EtOH abuse, ADHD, GERD who presents with abdominal
pain and hematemesis. Patient with multiple ED visits over past
month for abdominal pain, emesis and inability to tolerate PO.
One episode reportedly related to pancreatitis. Patient reports
current episode started on ___. The pain was located in the
epigastric area, burning, severe at onset. Pain has since
resolved. It was associated with multiple episodes of NBNB 
emesis
up until last night when patient noted a large amount of bright
red blood in his vomitus. Denies further episodes of n/v. Denies
diarrhea, f/c, no melena or hematochezia. When he is feeling
well, reports bowel movements are normal, no greasy or floating
stool. No joint swelling, rashes, myalgias. To his knowledge, no
family or personal history of autoimmune diseases. Patient
reports prior history of EtoH abuse however has been ___ for 
12
months, receives monthly vivitrol shots. Denies use of illicit
drugs. Patient had an EGD several years ago for severe heartburn
which he thinks was unremarkable. He has been on Prilosec since
then with no further issues with heartburn. Endorses 15 lbs
weight loss over past 5 weeks due to poor po intake. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
ADHD
EtOH abuse
GERD

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
Admission physical exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge physical exam
T98.4, BP 143/100, HR 98, RR 18, O2 97% RA
Gen - NAD, sitting up in bed, comfortable appearing
HEENT - nc/at, moist mucous membranes
Eyes - anicteric, perrl
Neck - supple, no lad
___ - rrr, s1/2, no m/r/g
Pulm - CTA b/l, no w/r/r
GI - soft, NT, ND, +bowel sounds, negative ___ sign, no 
rebound/guarding/rigidity
Ext - no peripheral edema
Skin - warm, dry, no rash
Psych - calm, appropriate
Neuro - non focal, moving all extremities
 
Pertinent Results:
___ 06:45AM BLOOD WBC-3.8* RBC-4.23* Hgb-14.7 Hct-41.3 
MCV-98 MCH-34.8* MCHC-35.6 RDW-12.7 RDWSD-45.3 Plt ___
___ 12:44PM BLOOD WBC-4.2 RBC-4.61 Hgb-16.3 Hct-43.8 MCV-95 
MCH-35.4* MCHC-37.2* RDW-12.3 RDWSD-42.8 Plt ___

___ 06:45AM BLOOD Glucose-111* UreaN-9 Creat-0.7 Na-139 
K-4.2 Cl-95* HCO3-31 AnGap-13
___ 12:44PM BLOOD Glucose-88 UreaN-20 Creat-1.0 Na-135 
K-4.4 Cl-96 HCO3-25 AnGap-14

___ 06:45AM BLOOD ALT-93* AST-120* AlkPhos-64 TotBili-0.5
___ 12:44PM BLOOD ALT-105* AST-240* AlkPhos-67 TotBili-0.8

___ 06:45AM BLOOD Lipase-118*

___ 06:45AM BLOOD Triglyc-642*
___ 06:35AM BLOOD Triglyc-1469*
___ 12:44PM BLOOD Triglyc-2611*

___ 12:44PM BLOOD ___ 
 
Brief Hospital Course:
Mr. ___ is a ___ male with the past
medical history of EtOH abuse, ADHD, GERD who presents with
abdominal pain and hematemesis.

#Abdominal pain
#Hematemesis
#Pancreatitis 
-With recurrent abd pain and n/v over 5 weeks, with elevated 
LFT's and lipase, as well as triglyceride level, labs and 
presentation consistent with pancreatitis. Hematemesis could be 
related to ___ tear, no further episodes. Was seen by 
GI, given his symptoms resolved quickly after admission, an 
inpatient EGD was felt not to be indicated and instead set up as 
outpatient. His symptoms of pancreatitis improved and he was 
able to tolerate a PO low fat diet with no pain. LFT's and 
triglycerides trended down. Trigs 2600's -> 600's, so 
pharmacotherapy (such as fenofibrate) was not initiated, advised 
to repeat level in ___ weeks if still elevated can consider 
treatment at that time. Also advised for etoh cessation. 
Continue PPI BID, at home dose. 

#Alcoholic hepatitis - prior US with steatosis, likely related 
to EtOH use. AST> ALT also suggestive of alcoholic hepatitis. 
Stable. 

#Positive EtOH level - patient denies EtoH use however on ED 
labs, EtOH noted to be 102, he attributes this to Nyquil usage. 
Did not score on CIWA or exhibit any signs of withdrawal. 

#Elevated BP in the 150's - no formal dx of hypertension,
monitor. Asymptomatic (no HA, CP) - can follow this as 
outpatient. 

CHRONIC/STABLE PROBLEMS:
#GERD - PPI as above
#ADHD - continue wellbutrin

FEN: Regular low fat diet
Code status: FULL
Dispo: dc home today. F/u with PCP ___ ___ weeks for repeat LFT's 
and trigs. GI to set up for outpatient EGD. Also advised to 
discuss elevated BP readings with PCP. 

___, MD, ___ ___
Hospital Medicine
___

Time spent: 45 min
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 450 mg PO DAILY 
2. Omeprazole 20 mg PO BID 
3. naltrexone microspheres 380 mg injection once monthly 

 
Discharge Medications:
1.  BuPROPion XL (Once Daily) 450 mg PO DAILY  
2.  naltrexone microspheres 380 mg injection once monthly  
3.  Omeprazole 20 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatitis 
Hematemesis (vomiting of blood)
Abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital with vomiting of blood as well 
as abdominal pain, found to have pancreatitis. Your symptoms 
have improved and you will be discharged home to resume your 
home regimen of omeprazole. Please adhere to a low fat diet, and 
you are advised to abstain from alcohol including that which may 
be found in cough suppressants. Have a set of labs including 
your liver function and triglycerides repeated within the next 
___ weeks. You will be contacted by the Gastroenterology group 
to schedule an upper endoscopy (EGD), within the next few weeks. 

 
Followup Instructions:
___